US07074817B2
5-Bromo-1-(4-fluorobenzyl)-1H-indole
The title compound was prepared from 4-fluorobenzyl bromide and 5-bromoindole in substantially the same manner, as described in Step 1 of Example 25. The product was obtained as a white solid; mp: 57-58° C. Mass spectrum (APCI, [M+H]+) m/z 304. 1 HNMR (400 MHz, DMSO-d6): δ 7.73 (d, 1H, J=1.8 Hz), 7.55 (d, 1H, J=3.2 Hz), 7.43 (d, 1H, J=8.9 Hz), 7.24-7.19 (m, 3H), 7.12 (t, 2H, J=8.9 Hz), 6.47 (d, 1H, J=3.6 Hz), 5.40 (s, 2H), and 2.22 ppm (s, 3H).

reactant | 4-fluorobenzyl bromide | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | 5-bromoindole | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
product | 5-Bromo-1-(4-fluorobenzyl)-1H-indole | BrC=1C=C2C=CN(C2=CC1)CC1=CC=C(C=C1)F | C15H11BrFN
